US08871766B2
B) 4-(4-fluorobenzyl)-4-hydroxypiperidine hydrochloride
To a solution of tert-butyl 4-(4-fluorobenzyl)-4-hydroxypiperidine-1-carboxylate (2.0 g) in ethanol (10 mL) was added 2.0 M HCl/ethanol solution (20 mL), and the mixture was stirred at room temperature for 3 hr. The solvent was evaporated under reduced pressure, and the obtained solid was recrystallized from ethanol/hexane to give the title compound (1.4 g).

reactant | tert-butyl 4-(4-fluorobenzyl)-4-hydroxypiperidine-1-carboxylate | 2.0 g | FC1=CC=C(CC2(CCN(CC2)C(=O)OC(C)(C)C)O)C=C1 | C17H24FNO3
reactant | HCl ethanol | 2.0 M, 20 mL | Cl.C(C)O
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 4-(4-fluorobenzyl)-4-hydroxypiperidine hydrochloride | 1.4 g | Cl.FC1=CC=C(CC2(CCNCC2)O)C=C1 | InChI=1S/C12H16FNO.ClH/c13-11-3-1-10(2-4-11)9-12(15)5-7-14-8-6-12;/h1-4,14-15H,5-9H2;1H
